US07608629B2
Preparation 12. 4-(3-Bromo-phenoxy)-1-methyl-piperidine
Dissolve 1-methyl-piperidin-4-ol (10.06 g, 87.34 mmol) in DMF (30 mL) and add to a stirred suspension of sodium hydride (5.24 g, 131.01 mmol) in DMF (155 mL). After the addition is complete, heat at 50° C. After 45 min., add a solution of 1-bromo-3-fluoro-benzene (12.2 mL, 109.18 mmol) in DMF (15 mL) and stir and heat at 65° C. After 18 hr., cool to ambient temperature, quench with water (5 mL), remove the DMF under reduced pressure, wash with water (50 mL) and extract with ethyl acetate/hexanes (2/1 mixture, 2×35 mL). Combine the organic layers, dry over magnesium sulfate, filter under reduced vacuum and concentrate to dryness. Purify by flash chromatography using dichloromethane/ammonia (2.0M in methanol) 20/1 as the eluent to give of the title compound (15.4 g, 65%). Mass spectrum (ion spray): m/z=270.0 (M+1); 1H NMR (CDCl3): 7.12 (t, J=8.3 Hz, 1H), 7.07-7.04 (m, 2H), 6.83 (bd, J=8.3 Hz, 1H), 4.35-4.26 (bm, 1H), 2.73-2.64 (bm, 2H), 2.37-2.28 (bm, 5H), 2.05-1.96 (bm, 2H), 1.89-1.79 (bm, 2H).

reactant | 1-methyl-piperidin-4-ol | 87.34 mmol, 10.06 g | CN1CCC(CC1)O | C6H13NO
reactant | sodium hydride | 131.01 mmol, 5.24 g | [H-].[Na+]
reactant | 1-bromo-3-fluoro-benzene | 109.18 mmol, 12.2 mL | BrC1=CC(=CC=C1)F | C6H4BrF
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 155 mL | CN(C)C=O | C3H7NO
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(3-Bromo-phenoxy)-1-methyl-piperidine | 15.4 g, 65% | BrC=1C=C(OC2CCN(CC2)C)C=CC1 | C12H16BrNO
